US05624943
Under the conditions of example 5A, 9.2 g of 3-(3-hydroxy-6-iodo-2-pyridyl)-propionic acid methyl ester is reacted with 4.8 g of 3-ethinylbenzoic acid methyl ester, worked up, and the crude product is chromatographed on silica gel with hexane/0-20% ethyl acetate. 4.7 g of 3-{3-hydroxy-6-[2-(3-methoxycarbonylphenyl)-ethinyl]-2-pyridyl}-propionic acid methyl ester of melting point 125°-127° C. is obtained.

reactant | 3-(3-hydroxy-6-iodo-2-pyridyl)-propionic acid methyl ester | 9.2 g | COC(CCC1=NC(=CC=C1O)I)=O | C9H10INO3
reactant | 3-ethinylbenzoic acid methyl ester | 4.8 g | COC(C1=CC(=CC=C1)C#C)=O | C10H8O2
product | 3-{3-hydroxy-6-[2-(3-methoxycarbonylphenyl)-ethinyl]-2-pyridyl}-propionic acid methyl ester | 4.7 g | COC(CCC1=NC(=CC=C1O)C#CC1=CC(=CC=C1)C(=O)OC)=O | C19H17NO5
